US04032525
8.9 G. of 10,11-dihydro-2-methyl-8-methylthio-dibenz[b,f]oxepin-10-one are suspended in 65 ml. of ethanol and treated with a solution of 1.25 g. of sodium borohydride in 4.3 ml. of water. The mixture is stirred for 2 hours at room temperature. Then, 20 ml. of methanol are added thereto and the resulting mixture is heated at reflux for 15 minutes. Thereafter, the methanol and ethanol are removed by evaporation in vacuo. The residue is extracted with chloroform, the chloroform extracts are washed with water, dried and evaporated in vacuo. The residue is crystallized from diisopropyl ether, and there is obtained 10,11-dihydro- 3-methyl-8-methylthio-dibenz[b,f]oxepin- 10-ol having a melting point of 67°-69° C.

reactant | 10,11-dihydro-2-methyl-8-methylthio-dibenz[b,f]oxepin-10-one | CC1=CC2=C(OC3=C(C(C2)=O)C=C(C=C3)SC)C=C1 | C16H14O2S
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 10,11-dihydro- 3-methyl-8-methylthio-dibenz[b,f]oxepin- 10-ol | CC=1C=CC2=C(OC3=C(C(C2)O)C=C(C=C3)SC)C1 | C16H16O2S
